US07842688B2
b) tert-Butyl 4-[4-(4-aminobutoxy)phenyl]-3-[1-(3-methoxypropyl)-2-oxo-1,2,3,4-tetrahydroquinolin-7-ylmethoxy]piperidine-1-carboxylate
The solution of 0.650 g of tert-butyl 4-[4-(3-cyanopropoxy)phenyl]-3-[1-(3-methoxypropyl)-2-oxo-1,2,3,4-tetrahydroquinolin-7-ylmethoxy]piperidine-1-carboxylate in 10 ml of ammonia (2M in methanol) is hydrogenated in the presence of 0.65 g of Raney nickel at 45° C. over 3 hours. The reaction mixture is clarified by filtration and the filtrate is concentrated by evaporation. The title compound is obtained as a brown oil from the residue by means of flash chromatography (SiO2 60F). Rf=0.13 (200:20:1 dichloromethane-methanol-conc. ammonia); Rt=4.18.

reactant | tert-butyl 4-[4-(3-cyanopropoxy)phenyl]-3-[1-(3-methoxypropyl)-2-oxo-1,2,3,4-tetrahydroquinolin-7-ylmethoxy]piperidine-1-carboxylate | 0.650 g | C(#N)CCCOC1=CC=C(C=C1)C1C(CN(CC1)C(=O)OC(C)(C)C)OCC1=CC=C2CCC(N(C2=C1)CCCOC)=O | C34H45N3O6
solvent | ammonia | 2M, 10 ml | N | H3N
catalyst | Raney nickel | 0.65 g | [Ni] | Ni
product | tert-Butyl 4-[4-(4-aminobutoxy)phenyl]-3-[1-(3-methoxypropyl)-2-oxo-1,2,3,4-tetrahydroquinolin-7-ylmethoxy]piperidine-1-carboxylate | NCCCCOC1=CC=C(C=C1)C1C(CN(CC1)C(=O)OC(C)(C)C)OCC1=CC=C2CCC(N(C2=C1)CCCOC)=O | C34H49N3O6
